US06057335
(1) Preparation of 3,4-dimethoxybenzoylacetonitrile
Dry acetonitrile (1.8 ml) was added to a solution of n-butyl lithium (a 2.5M solution in hexane, 13.8 ml) in dry THF (30 ml) at -78° C. and the mixture was stirred at the same temperature for 1 hour to which was subsequently added a solution of methyl 3,4-dimethoxybenzoate (6.42 g) in dry THF (15 ml). The mixture was stirred at -78° C. for 3 hours and then at room temperature for 1 hour. Water (100 ml) was added to the reaction solution and the resultant mixture was extracted with ethyl ether (100 ml). After the aqueous layer was acidified with 6 N hydrochloric acid, it was extracted with ethyl acetate (200 ml×3). The organic layers were combined, washed with saturated brine and then dried over anhydrous sodium sulfate. Then, the solvent was distilled away under a reduced pressure. The resultant residue was crystallized from ethyl acetate-hexane to obtain the title compound (3.6 g) as pale yellow crystals.

reactant | acetonitrile | 1.8 ml | C(C)#N | C2H3N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl 3,4-dimethoxybenzoate | 6.42 g | COC=1C=C(C(=O)OC)C=CC1OC | C10H12O4
reactant | Water | 100 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3,4-dimethoxybenzoylacetonitrile | 3.6 g | COC=1C=C(C(=O)CC#N)C=CC1OC | C11H11NO3
